US09260411B2
tert-butyl 2-chloroisonicotinate
A 1-L jacketed 3-neck round bottom flask equipped with overhead stirrer, N2-inlet vented to the atmosphere and thermocouple was charged with 2-chloroisonicotinic acid (78.0 g, 495 mmol), di-tert-t-butyl dicarbonate (230.1 g, 1054 mmol), and 1-methyl-2-pyrrolidinone (179.3 g). A solution of 4-dimethylamino pyridine (11.61 g, 95 mmol) dissolved in 1-methyl-2-pyrrolidinone (60.0 g) was charged to the mixture and the temperature was adjusted to 25±10° C. The reaction was quenched after stirring for about 17 hours by the addition of an ice-cold solution of sodium chloride (30.0 g) and monobasic potassium phosphate (30.2 g) in water (320.7 g). Methyl tert-butyl ether (278 g) was added, and the mixture was stirred and allowed to settle. The layers were separated. The organic phase was washed three times with water (˜230-240 g each) then diluted with toluene (239 g) and distilled under vacuum to a red oil (150.8 g, KF 29.9 ppm H2O). 1H NMR (400 MHz, CDCl3) δ ppm 1.60 (s, 9H) 7.69-7.72 (m, 1H) 7.79-7.81 (m, 1H) 8.49 (dd, J=5.08, 0.69 Hz, 1H).

reactant | 2-chloroisonicotinic acid | 495 mmol, 78.0 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
catalyst | 4-dimethylamino pyridine | 95 mmol, 11.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1-methyl-2-pyrrolidinone | 60.0 g | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | 179.3 g | CN1C(CCC1)=O | C5H9NO
product | tert-butyl 2-chloroisonicotinate | ClC=1C=C(C(=O)OC(C)(C)C)C=CN1 | C10H12ClNO2
